US07968570B2
A mixture of 2-bromomethyl-6-iodo-benzoic acid methyl ester (1.07 g, 3.0 mmol), benzylamine (0.34 mL, 3.1 mmol), and K2CO3 (0.83 g, 6 mmol) in toluene (10 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-benzyl-7-iodo-2,3-dihydro-isoindol-1-one 0.586 g, 56%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.16 (s, 2H), 4.82 (s, 2H) 7.18-7.40 (m, 7H), 7.90 (d, 1H). GC-MS: m/z 349 (M)+.

reactant | 2-bromomethyl-6-iodo-benzoic acid methyl ester | 3.0 mmol, 1.07 g | COC(C1=C(C=CC=C1I)CBr)=O | C9H8BrIO2
reactant | benzylamine | 3.1 mmol, 0.34 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | K2CO3 | 6 mmol, 0.83 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-benzyl-7-iodo-2,3-dihydro-isoindol-1-one | 0.586 g, 56% | C(C1=CC=CC=C1)N1C(C2=C(C=CC=C2C1)I)=O | C15H12INO
